US07459562B2
3-(4-(2-Aminopyridin-4-yloxy)-3-fluorophenylamino)-3-oxopropanoic acid (30 mg, 0.10 mmol) was coupled with (S)-2-amino-2-phenylacetamide hydrochloride (Acros, 28 mg, 0.15 mmol) in a manner similar to that which is described in Step C of Example 1 to give (S)-N-(2-amino-2-oxo-1-phenylethyl)-N3(4-(2-aminopyridin-4-yloxy)-3-fluorophenyl)malonamide, hydrochloride salt (25 mg, 53% yield). 1H NMR (DMSO-d6) δ 10.68 (s, 1H), 8.80 (d, 1H, J=8.0 Hz), 7.96 (d, 1H, J=7.5 Hz), 7.77-7.90 (m, 4H), 7.20-7.45 (m, 8H), 6.70 (m, 1H), 6.12 (s, 1H), 5.39 (d, 1H, J=7.5 Hz), 3.48 (d, 1H, J=15.0 Hz), 3.41 (d, 1H, J=15.0 Hz); MS(ESI+) m/z 438.26 (M+H)+.

reactant | 3-(4-(2-Aminopyridin-4-yloxy)-3-fluorophenylamino)-3-oxopropanoic acid | 0.10 mmol, 30 mg | NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(CC(=O)O)=O)F | C14H12FN3O4
reactant | (S)-2-amino-2-phenylacetamide hydrochloride | 0.15 mmol, 28 mg | Cl.N[C@H](C(=O)N)C1=CC=CC=C1
product | (S)-N-(2-amino-2-oxo-1-phenylethyl)-N3(4-(2-aminopyridin-4-yloxy)-3-fluorophenyl)malonamide, hydrochloride salt | 25 mg, 53% yield | Cl.NC([C@H](C1=CC=CC=C1)NC(CC(=O)NC1=CC(=C(C=C1)OC1=CC(=NC=C1)N)F)=O)=O | InChI=1S/C22H20FN5O4.ClH/c23-16-10-14(6-7-17(16)32-15-8-9-26-18(24)11-15)27-19(29)12-20(30)28-21(22(25)31)13-4-2-1-3-5-13;/h1-11,21H,12H2,(H2,24,26)(H2,25,31)(H,27,29)(H,28,30);1H/t21-;/m0./s1
